US08471005B2
[2-(2-Methanesulfinyl-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-phenoxy]-acetic acid (197 mg, 0.000594 mol), 2.0 M of Dimethylamine in Tetrahydrofuran (0.400 mL, 0.000800 mol) N-(3-Dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (0.147 g, 0.000767 mol) 1-Hydroxybenzotriazole (0.109 g, 0.000807 mol), 4-Methylmorpholine (0.0850 mL, 0.000773 mol) and N,N-Dimethylformamide (4.9 mL, 0.063 mol) were combined and stirred for 2.5 hours. The reaction was concentrated and purified by normal phase silica gel chromatography eluting with dichloromethane /methanol/ammonium hydroxide to yield a brown solid, 2-[2-(2-Methanesulfinyl-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-phenoxy]-N,N-dimethyl-acetamide (162 mg, 76%). LCMS: m/z=359.13 (M+H+); 1H NMR (400 MHz, DMSO-d6) δ 9.29 (s, 1H), 7.89 (d, 1H, J=7.6 Hz), 7.62 (d, 1H, J=4.7 Hz), 7.44 (m, 1H), 7.30 (d, 1H, J=4.7 Hz), 7.18 (d, 1H, J=8.4 Hz), 7.13 (m, 1H), 4.94 (s, 2H), 2.94 (s, 3H), 2.92 (s, 3H), 2.82 (s, 3H).

reactant | [2-(2-Methanesulfinyl-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-phenoxy]-acetic acid | 0.000594 mol, 197 mg | CS(=O)C1=NN2C(C=N1)=CC=C2C2=C(OCC(=O)O)C=CC=C2 | C15H13N3O4S
reactant | Dimethylamine | 2.0 M | CNC | C2H7N
reactant | Tetrahydrofuran | 0.000800 mol, 0.400 mL, 0.147 g | O1CCCC1 | C4H8O
reactant | 4-Methylmorpholine | 0.000773 mol, 0.0850 mL | CN1CCOCC1 | C5H11NO
reactant | N,N-Dimethylformamide | 0.063 mol, 4.9 mL | CN(C=O)C | C3H7NO
product | 2-[2-(2-Methanesulfinyl-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-phenoxy]-N,N-dimethyl-acetamide | 162 mg, 76% | CS(=O)C1=NN2C(C=N1)=CC=C2C2=C(OCC(=O)N(C)C)C=CC=C2 | C17H18N4O3S
